US07384963B2
N-(4-Cyanobenzyl)-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide was prepared from 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxylic acid and 4-cyanobenzylamine using method N. NMR; δH [2H6]—DMSO 9.25,(1H, t), 8.01,(2H, d), 7.90,(1H, dd), 7.81,(2H, d), 7.77,(1H, d), 7.56-7.51,(5H, m), 4.58,(2H, d), 2.56,(3H, s), 2.31,(3H, s). LCMS; retention time 3.34 min, MH+ 409.

reactant | 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxylic acid | CC1=C(C=C(C=C1)C=1OC(=NN1)C)C1=CC=C(C=C1)C(=O)O | C17H14N2O3
reactant | 4-cyanobenzylamine | C(#N)C1=CC=C(CN)C=C1 | C8H8N2
product | N-(4-Cyanobenzyl)-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide | C(#N)C1=CC=C(CNC(=O)C2=CC=C(C=C2)C2=C(C=CC(=C2)C=2OC(=NN2)C)C)C=C1 | C25H20N4O2
